US07468371B2
3-prop-2-ynyl-1H-indole
To a solution of indole (0.50 g, 4.67 mmol), zinc trifluoromethanesulfonate (1.02 g, 2.8 mmol) and tetrabutylammonium iodide (0.86 g, 2.34 mmol) in toluene (14 mL) was added N,N-diisopropylethylamine (0.89 mL, 5.14 mmol) and the mixture was stirred at room temperature for about 15 min. Propargyl bromide (0.26 mL, 2.34 mmol) was added and the solution was stirred at room temperature for about 4 hours. The solution was quenched by addition of aqueous ammonium chloride and the mixture was extracted with diethyl ether. The combined organic extracts were dried (MgSO4), filtered and concentrated under vacuum, the residue was purified by flash column chromatography on silica gel using hexanes/ethyl acetate (8:1) as the mobile phase to provide Example 650. 1H NMR (300 MHz, CDCl3) δ 2.13 (t, J=2.7 Hz, 1H), 3.70 (d, J=2.7 Hz, 2H), 6.55 (s, 1H), 7.37 (m, 2H), 7.64 (m, 2H), 7.98 (br s, 1H).

reactant | indole | 4.67 mmol, 0.50 g | N1C=CC2=CC=CC=C12 | C8H7N
reactant | N,N-diisopropylethylamine | 5.14 mmol, 0.89 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | Propargyl bromide | 2.34 mmol, 0.26 mL | C(C#C)Br | C3H3Br
catalyst | tetrabutylammonium iodide | 2.34 mmol, 0.86 g | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | toluene | 14 mL | C1(=CC=CC=C1)C | C7H8
catalyst | zinc trifluoromethanesulfonate | 2.8 mmol, 1.02 g | FC(S(=O)(=O)[O-])(F)F.[Zn+2].FC(S(=O)(=O)[O-])(F)F
product | 3-prop-2-ynyl-1H-indole | C(C#C)C1=CNC2=CC=CC=C12 | C11H9N
